US06878715B1
To a 50% solution of trifluoroacetic acid in dichloromethane (15 ml) was added (R)-1-(5-cyanohexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine (0.21 g, 0.52 mmol). After stirring at room temperature for 3 hours, the solvent and excess reagent were evaporated under reduced pressure. The residue was treated with ammonia-methanol solution (2.0 M, 10 ml) and stirred for 1 hour. After concentration under reduced pressure, the crude product was purified by flash chromatography on silica gel eluting with ammonium hydroxide (37% in water)-methanol-ethyl acetate mixture (1:10:5) to provide (R)-8-aminomethyl-1-(5-cyanohexyl)-3-methylxanthine (0.06 g, 38% yield) as a white solid.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-1-(5-cyanohexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine | 0.52 mmol, 0.21 g | C(#N)[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CNC(=O)OC(C)(C)C)C)C | C19H28N6O4
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (R)-8-aminomethyl-1-(5-cyanohexyl)-3-methylxanthine | 0.06 g, 38% yield | NCC1=NC=2N(C(N(C(C2N1)=O)CCCC[C@@H](C)C#N)=O)C | C14H20N6O2
